US09216973B2
5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-carbaldehyde oxime
To a solution of 5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-carbaldehyde (2 g) in EtOH (4 mL) and H2O (2 drops), was added aqueous NH2OH (50% in water, 0.48 mL). The solution was stirred at room temperature for 3 hours then allowed to stand at room temperature for 16 hours. Then the solution was stirred again and more hydroxylamine (0.04 mL) was added. After 3 hours, the reaction was quenched by addition of water. After extraction with ethylacetate, the organic phase was separated, dried over magnesium sulfate and concentrated to give 2.02 g of a yellow solid which was used in the next step without further purification. 1H-NMR (CDCl3, 400 MHz) shows a mixture of diastereoisomers: 8.07 and 7.94 (s, 1H), 7.43-7.38 (m, 3H), 3.88 (d, 1H), 3.50 (d, 1H).

reactant | 5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-carbaldehyde | 2 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C=O)C(F)(F)F | C11H6Cl2F3NO2
reactant | NH2OH | 0.48 mL | NO | H3NO
reactant | hydroxylamine | 0.04 mL | NO | H3NO
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | H2O | 2 drops | O | H2O
product | 5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-carbaldehyde oxime | 2.02 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C=NO)C(F)(F)F | C11H7Cl2F3N2O2
